US04471117
A mixture of 3 parts of 3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine, 1.6 parts of 3-pentanone and 30 parts of acetic acid is stirred for 10 minutes at room temperature. Then there is added portionwise 1 part of sodium borohydride at a temperature between 18°-20° C. (cooling is necessary). Upon completion, stirring is continued for 20 minutes at room temperature. The reaction mixture is alkalized to pH 8-9 with ammonium hydroxide while cooling. The product is extracted with trichloromethane. The aqueous phase is separated and extracted with trichloromethane. The combined organic phases are washed with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume), saturated with ammonia, as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried, yielding 2.2 parts of N-(1-ethylpropyl)-3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine; mp. 114.4° C.

reactant | 3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine | N=1CCCN2C1SC1=C2C=C(C=C1)N | C10H11N3S
reactant | 3-pentanone | CCC(CC)=O | C5H10O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(1-ethylpropyl)-3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine | C(C)C(CC)NC=1C=CC2=C(N3C(S2)=NCCC3)C1 | C15H21N3S
